US07067703B2
Preparation of trans-1-chloro-3-methyl-5-(2,6,6-trimethyl-cyclohex-1-enyl)-pent-1-en-4-yn-3-ol
A solution of 1.48 g (10 mmol) of 2-ethynyl-1,3,3-trimethyl-cyclohexene in 90 ml of dry tetrahydrofuran in a 250 ml three-necked reaction flask equipped with a magnetic stirrer, a rubber septum and argon gasification means was cooled under an argon atmosphere in a dry ice bath. It was treated dropwise with 7.5 ml (12 mmol) of a 1.6 M solution of n-butyllithium in hexane as fast as the temperature could be maintained at −70 to −60° C. The addition was completed within 10 minutes. After the reaction mixture had been stirred for an additional 30 minutes at −70° C., a solution of 1.045 g (10 mmol) of 4-chloro-buten-2-one in 10 ml of dry tetrahydrofuran was added slowly. After further stirring for 3 hours at −70° C. the reaction mixture was poured into 250 ml of ice water and extracted with three 70 ml quantities of hexane. The combined organic phases were washed with three 100 ml quantities of water and 50 ml of brine, and dried over anhydrous magnesium sulphate. All the volatile material was removed under a reduced pressure of 100–200 mbar (10–20 kPa), and 2.57 g of crude product were obtained. Chromatography through 60 of silica gel (0.04–0.063 mm) with a 95:5 (v/v) mixture of hexane and ethyl acetate afforded 1.19 g (4.7 mmol, 47% yield) of the pure product.

reactant | 2-ethynyl-1,3,3-trimethyl-cyclohexene | 10 mmol, 1.48 g | C(#C)C1=C(CCCC1(C)C)C | C11H16
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-chloro-buten-2-one | 10 mmol, 1.045 g | ClC=CC(C)=O | C4H5ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | trans-1-chloro-3-methyl-5-(2,6,6-trimethyl-cyclohex-1-enyl)-pent-1-en-4-yn-3-ol | 4.7 mmol, 1.19 g, 47% yield | Cl\C=C\C(C#CC1=C(CCCC1(C)C)C)(O)C | C15H21ClO
